US04451471
0.23 g of sodium are dissolved in 30 ml of ethanol under nitrogen. The solution is allowed to cool to room temperature, while stirring 3 g of 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione are added and, once dissolution is complete, ethylene oxide is introduced, the reaction temperature being maintained at 25°-30° by gentle cooling. After introducing the ethylene oxide for 30 minutes, it should not be possible to detect any more thione by thin layer chromatography. 10 ml of 2 N-ammonium chloride are then added, the ethanol is removed by distillation under reduced pressure, and the residue obtained by concentration by evaporation is shaken with a mixture of 50 ml of water and 50 ml of methylene chloride. The organic phase is removed, then shaken with methylene chloride, dried over magnesium sulphate and concentrated to dryness by evaporation. The oily crude product is caused to crystallise by triturating with 20 ml of diethyl ether and dried under reduced pressure. 2-(2-Hydroxyethylthio)-4,5-bis-(p-methoxyphenyl)-thiazole having a melting point of 82°-83° is obtained.

reactant | sodium | 0.23 g | [Na] | Na
reactant | 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione | 3 g | COC1=CC=C(C=C1)C1=NC(SC1C1=CC=C(C=C1)OC)=S | C17H15NO2S2
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | water | 50 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-Hydroxyethylthio)-4,5-bis-(p-methoxyphenyl)-thiazole | OCCSC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C19H19NO3S2
